US07777047B2
2-(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
To a mixture of (2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (153 mg), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (72 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (91 mg) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 15 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate-ethyl acetate:methanol=95:5), and the obtained pale-yellow oil was crystallized from ethyl acetate-hexane to give the title compound (118 mg, yield: 77%) as pale-yellow crystals.

reactant | (2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 153 mg | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O | C17H15N3O4S3
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 91 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 118 mg, yield: 77% | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)N | C17H16N4O3S3
